US08445674B2
E) 4-[(R)-4-(3-Chloro-4-trifluoromethyl-phenyl)-3-methyl-7-oxo-2,3,4,7-tetrahydro-[1,4]diazepin-1-yl]-butyric acid (22% ee)
A cooled solution (0° C.) of 1.00 g (2.00 mmol) of 4-[[(R)-2-(3-chloro-4-trifluoromethyl-phenylamino)-propyl]-(3,3-dimethoxy-propionyl)-amino]-butyric acid tert-butyl ester (22% ee) in 18 ml CH2Cl2 was treated with 2.25 ml (29.40 mmol) of trifluoroacetic acid and after 2 h at RT with 1.55 ml (9.80 mmol) of triethylsilane. The reaction was stirred at RT for 16 h, cooled (0° C.) and neutralized with 4.09 ml (29.40 mmol) of triethylamine. The residue was dissolved in diethyl ether and cold water. The reaction was extracted with 10% aq. KHSO4 solution/EtOAc (3×). The organic phases were washed with 10% aq. KHSO4 solution, dried over Na2SO4 and evaporated. Flash silica gel column (CH2Cl2/MeOH 99:2 to 9:1) afforded 0.57 g (74%) of the title compound as a 61:39 mixture of the (R) and (S) diastereomers as brown oil. MS: 389.09 (M−H−, Cl).

reactant | 4-[[(R)-2-(3-chloro-4-trifluoromethyl-phenylamino)-propyl]-(3,3-dimethoxy-propionyl)-amino]-butyric acid tert-butyl ester | 2.00 mmol, 1.00 g | C(C)(C)(C)OC(CCCN(C(CC(OC)OC)=O)C[C@@H](C)NC1=CC(=C(C=C1)C(F)(F)F)Cl)=O | C23H34ClF3N2O5
reactant | trifluoroacetic acid | 29.40 mmol, 2.25 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 9.80 mmol, 1.55 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | triethylamine | 29.40 mmol, 4.09 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 18 ml | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | O | H2O
product | 4-[(R)-4-(3-Chloro-4-trifluoromethyl-phenyl)-3-methyl-7-oxo-2,3,4,7-tetrahydro-[1,4]diazepin-1-yl]-butyric acid | 0.57 g, 74% | ClC=1C=C(C=CC1C(F)(F)F)N1[C@@H](CN(C(C=C1)=O)CCCC(=O)O)C | C17H18ClF3N2O3
